US08912186B2
The 1:1-mixture of 3-(biphenyl-4-yl)-7-chloro-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one and 3-(biphenyl-4-yl)-8-chloro-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one (200 mg) was dissolved in 1,4-dioxane (3 ml) at reflux temperature. A 25% solution of ammonia in water (1 ml) was added to give a light red solution. Refluxing was continued for 2 h while addition of 25% ammonia solution in 1 ml portions was repeated every half an hour (3 times). Then all volatiles were removed at the water aspirator and the residue was triturated with acetone to leave 3-(biphenyl-4-yl)-4-(5-chloro-2-benzimidazolyl)butyramide (165 mg) as light yellowish solid.

reactant | 3-(biphenyl-4-yl)-7-chloro-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one | C1(=CC=C(C=C1)C1CC2=NC3=C(N2C(C1)=O)C=CC(=C3)Cl)C3=CC=CC=C3 | C23H17ClN2O
reactant | 3-(biphenyl-4-yl)-8-chloro-3,4-dihydropyrido[1,2-a]benzimidazol-1(2H)-one | 200 mg | C1(=CC=C(C=C1)C1CC2=NC3=C(N2C(C1)=O)C=C(C=C3)Cl)C3=CC=CC=C3 | C23H17ClN2O
reactant | ammonia | N | H3N
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | 3-(biphenyl-4-yl)-4-(5-chloro-2-benzimidazolyl)butyramide | 165 mg | C1(=CC=C(C=C1)C(CC(=O)N)CC=1NC2=C(N1)C=CC(=C2)Cl)C2=CC=CC=C2 | C23H20ClN3O
